US07157464B2
Synthesis of 2-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-4-Chloro-3-thiophen-2-yl-2H-pyrazole-5-carboxylic acid ethyl ester
Protocol T was followed using 4-Chloro-3-Thiophen-2-yl-2H-pyrazole-5-carboxylic acid ethyl ester, K2CO3, 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone and DMF. Column chromatography using a solvent mixture (hexane/ethyl acetate=1.5/1:Rf=0.62) afforded the title compound. 1H NMR (400 MHz, CDCl3): 7.06–7.36 (m, 1H), 6.96–7.2 (m, 3H), 6.84–6.92 (m, 3H), 54.46 (s, 2H), 4.3–4.4 (q, 2H), 3.6–3.82 (m, 4H), 3.05–3.25 (m, 4H), 1.3–1.42 (m, 3H).

reactant | 4-Chloro-3-Thiophen-2-yl-2H-pyrazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C(NN1)C=1SC=CC1)Cl | C10H9ClN2O2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-1-[4-(4-fluoro-phenyl)-piperazin-1-yl]-ethanone | ClCC(=O)N1CCN(CC1)C1=CC=C(C=C1)F | C12H14ClFN2O
reactant | DMF | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2-{2-[4-(4-Fluoro-phenyl)-piperazin-1-yl]-2-oxo-ethyl}-4-Chloro-3-thiophen-2-yl-2H-pyrazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C(N(N1)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)F)C=1SC=CC1)Cl | C22H22ClFN4O3S
